US06762180B1
(91) 3-Z-[1-(4-(N-(2-dimethylamino-ethyl)-N-(2-methoxy-benzoyl)-amino)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone and 4-(N-(2-dimethylamino-ethyl)-N-(2-methoxy-benzoyl)-amino)-aniline Rf value: 0.5 (silica gel, methylene chloride/methanol=9:1) C35H34N4O5

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OC)=C(C1=CC=CC=C1)OCC)=O | C21H19NO5
reactant | 4-(N-(2-dimethylamino-ethyl)-N-(2-methoxy-benzoyl)-amino)-aniline | CN(CCN(C(C1=C(C=CC=C1)OC)=O)C1=CC=C(N)C=C1)C | C18H23N3O2
product | 3-Z-[1-(4-(N-(2-dimethylamino-ethyl)-N-(2-methoxy-benzoyl)-amino)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | CN(CCN(C(C1=C(C=CC=C1)OC)=O)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1)C | C35H34N4O5
